US07091227B2
1-Ethyl-5-methyl-3-(6-nitro-1,3-benzothiazol-2-yl)-1,3,5-triazinan-2-one
N-Ethyl-N′-(6-nitro-1,3-benzothiazol-2-yl)urea (2.8 g) was suspended in about 100 mL 1:1 EtOH/H2O at room temperature. About 8 mL of a 37% aqueous solution of formaldehyde is added followed by addition of about 15 mL of a 2M solution of MeNH2 in MeOH, then about 2.2 mL of N-methylmorpholine. The solution was warmed to about 80° C. then allowed to stir for about 16 hours. The slurry was then cooled to room temperature, filtered and washed well with water. After drying in vacuo, about 3.2 grams was isolated. 1H NMR 1.13 (t, 3H, J=7.1 Hz), 2.55 (s, 3H), 3.38 (q, 2H, J=7.1 Hz), 4.39 (s, 2H), 5.16 (s, 2H), 7.81 (d, 1H, J=8.9 Hz), 8.22 (dd, 1H, J=2.4 Hz, J=8.9 Hz), 8.95 (d, 1H, J=2.4 Hz) LC/MS=3.33 min, 322 (MH+), 320(M−H−).

reactant | N-Ethyl-N′-(6-nitro-1,3-benzothiazol-2-yl)urea | 2.8 g | C(C)NC(=O)NC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C10H10N4O3S
reactant | formaldehyde | C=O | CH2O
reactant | MeNH2 | CN | CH5N
reactant | N-methylmorpholine | about 2.2 mL | CN1CCOCC1 | C5H11NO
solvent | MeOH | CO | CH4O
solvent | EtOH H2O | CCO.O
product | 1-Ethyl-5-methyl-3-(6-nitro-1,3-benzothiazol-2-yl)-1,3,5-triazinan-2-one | C(C)N1C(N(CN(C1)C)C=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-])=O | C13H15N5O3S
